US07777047B2
N-[2-(benzylthio)-3,3-dimethoxypropyl]-7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide
To a mixture of 7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylic acid (600 mg), 2-(benzylthio)-3,3-dimethoxypropan-1-amine (410 mg), diisopropylethylamine (450 mg) and N,N-dimethylformamide (10 mL) was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, 720 mg) at room temperature, and the mixture was stirred for 2.5 days. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (4:1-2:1, volume ratio) to give the title compound (600 mg, yield 67%) as a colorless amorphous solid.

reactant | 7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylic acid | 600 mg | CN(C=1C=C(C=C2C=C(NC12)C(=O)O)OC(F)(F)F)S(=O)(=O)C=1SC=CC1 | C15H11F3N2O5S2
reactant | 2-(benzylthio)-3,3-dimethoxypropan-1-amine | 410 mg | C(C1=CC=CC=C1)SC(CN)C(OC)OC | C12H19NO2S
reactant | diisopropylethylamine | 450 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 720 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-[2-(benzylthio)-3,3-dimethoxypropyl]-7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide | 600 mg, yield 67% | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OC(F)(F)F)N(S(=O)(=O)C=1SC=CC1)C)C(OC)OC | C27H28F3N3O6S3
